US08048881B2
87.1. 4-{(S)-4-tert-butoxycarbonyl-2-[(6-isopropyl-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
Isopropylmagnesium bromide (29.5 mg) was added to an orange solution of 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester (56 mg) and iron(III) acetylacetonate (1.8 mg) in anhydrous THF (1 ml) under argon. After stirring at RT for 30 min, it was quenched with a 1M HCl solution and extracted with EA. The org. phases were dried (Na2SO4) and evaporated off to give 50 mg of the desired compound.

reactant | Isopropylmagnesium bromide | 29.5 mg | C(C)(C)[Mg]Br
reactant | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 56 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)Cl)C1=CC=CC=C1)=O | C27H34ClN5O6
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | iron(III) acetylacetonate | 1.8 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
product | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-isopropyl-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 50 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)C(C)C)C1=CC=CC=C1)=O | C30H41N5O6
